US08222435B2
Methyl 3-(chloromethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate
Methyl 1-(3-chloropyridin-2-yl)-5-hydroxy-3-(hydroxymethyl)-4,5-dihydro-1H-pyrazole-5-carboxylate (28.5 g, 0.1 mol) was dissolved in 100 ml of CH2Cl2 and the solution was cooled to 5° C. SOCl2 (0.12 mol) in 30 ml of CH2Cl2 was slowly added dropwise at this temperature. The mixture was after-stirred for 4 hours at RT and concentrated by evaporation in vacuo. The product was purified by column chromography on SiO2 (eluent hexane/ethyl acetate). Oil.

reactant | Methyl 1-(3-chloropyridin-2-yl)-5-hydroxy-3-(hydroxymethyl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 0.1 mol, 28.5 g | ClC=1C(=NC=CC1)N1N=C(CC1(C(=O)OC)O)CO | C11H12ClN3O4
reactant | SOCl2 | 0.12 mol | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-(chloromethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | ClCC1=NN(C(=C1)C(=O)OC)C1=NC=CC=C1Cl | C11H9Cl2N3O2
